US06180622B2
Iodomethane (0.71 g) is added to 57.2 mg of allyl(1R,5S,6S)-2-[(3S,5R)-1-allyloxycarbonyl-5-(imidazo[5,1-b]thiazol-5-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate, and the mixture is stirred in an argon atmosphere in a light-shielded state at room temperature for 3 days. The excess reagent is removed by evaporation under reduced pressure, and the residue is purified by column chromatography on Sephadex LH-20 (dichloromethane methanol=1:1) to give 66.6 mg of allyl(1R,5S,6S)-2-[(3S,5R)-1-allyloxycarbonyl-5-(6-methylimidazo[5,1-b]thiazolium-5-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate iodide as a yellow brown powder.

reactant | Iodomethane | 0.71 g | IC | CH3I
reactant | allyl(1R,5S,6S)-2-[(3S,5R)-1-allyloxycarbonyl-5-(imidazo[5,1-b]thiazol-5-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 57.2 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1CC1=NC=C2SC=CN21)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C27H32N4O6S2
product | allyl(1R,5S,6S)-2-[(3S,5R)-1-allyloxycarbonyl-5-(6-methylimidazo[5,1-b]thiazolium-5-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate iodide | 66.6 mg | [I-].C(C=C)OC(=O)N1C[C@H](C[C@H]1CC=1N(C=C2SC=C[N+]21)C)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | InChI=1S/C28H35N4O6S2.HI/c1-6-9-37-27(35)24-25(16(3)23-22(17(4)33)26(34)32(23)24)40-19-12-18(31(14-19)28(36)38-10-7-2)13-20-29(5)15-21-30(20)8-11-39-21;/h6-8,11,15-19,22-23,33H,1-2,9-10,12-14H2,3-5H3;1H/q+1;/p-1/t16-,17-,18+,19+,22-,23-;/m1./s1
